US05945556
17 g (66 mmol) of N-carboxymethylene-4-chloroanthranilic acid are dissolved in 175 g of N,N-dimethylformamide, and 22.5 g (162 mmol) of potassium carbonate are added. At 80° C., 56 g (444 mmol) of dimethyl sulfate are added dropwise in 3 portions over the course of 2 h, and the mixture is then stirred for 30 min. The excess dimethyl sulfate is destroyed by adding ammonia. The product is precipitated by cooling, filtered off and washed with water. 16.1 g (62.5 mmol; 95%) of methyl N-carbomethoxymethylene-4-chloroanthranilate are isolated.

reactant | N-carboxymethylene-4-chloroanthranilic acid | 66 mmol, 17 g | C(=O)(O)C=NC=1C(C(=O)O)=CC=C(C1)Cl | C9H6ClNO4
reactant | potassium carbonate | 162 mmol, 22.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfate | 444 mmol, 56 g | S(=O)(=O)(OC)OC | C2H6O4S
solvent | N,N-dimethylformamide | 175 g | CN(C=O)C | C3H7NO
product | methyl N-carbomethoxymethylene-4-chloroanthranilate | 62.5 mmol, 16.1 g, 95% | C(=O)(OC)C=NC=1C(C(=O)OC)=CC=C(C1)Cl | C11H10ClNO4
